USH0000078
Methyl Bis-(2,2-dinitropropyl)-glycine.
A mixture of 20 g. (0.059 mole) of bis-(2,2-dinitropropyl)-glycine, 100 ml. of methanol and 10.0 ml. of concentrated sulfuric acid was refluxed for 90 minutes. The solution was diluted with 250 ml. of methylene chloride and washed with water, 5% sodium carbonate solution and water. The solvent was evaporated to yield 14.0 g. (67.3%) of white solid. Recrystallization from methanol-ether gave crystals, m.p. 94°-95°.

reactant | bis-(2,2-dinitropropyl)-glycine | 0.059 mole | [N+](=O)([O-])C(CN(CC(=O)O)CC(C)([N+](=O)[O-])[N+](=O)[O-])(C)[N+](=O)[O-] | C8H13N5O10
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | Methyl Bis-(2,2-dinitropropyl)-glycine | CC(N(CC(C)([N+](=O)[O-])[N+](=O)[O-])CC(C)([N+](=O)[O-])[N+](=O)[O-])C(=O)O | C9H15N5O10
